US07947712B2
1-(1,3-Benzodioxol-5-yl)-2-[8-(benzyloxy)-5-chloroquinolin-7-yl]ethanol
To a stirring solution of [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde (0.380 mmol) in tetrahydrofuran (4 mL) at −78° C. was dropwise added a 1M solution of 3,4-(methylenedioxy)phenylmagnesium bromide in 1:1 toluene/tetrahydrofuran (0.380 mmol, 1.0 eq.) and stirring at −78° C. was continued for 10 min. The reaction mixture was then allowed to warm to room temperature and was stirred 1 h then quenched with saturated aqueous sodium bicarbonate solution (2 mL). After stirring 15 min the reaction mixture was extracted with ethyl acetate (3×5 mL) and the combined organic layers were dried (MgSO4), filtered and concentrated to give a brown oil that was purified by column chromatography using 30% ethyl acetate/hexanes to give the final product as a white foam (0.126 mmol, 33%). MS (ESI) m/z 434.2; HRMS: calcd for C25H20ClNO4+H+, 434.11536; found (ESI, [M+H]+ Obs'd), 434.1150.

reactant | [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde | 0.380 mmol | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC=O | C18H14ClNO2
reactant | 3,4-(methylenedioxy)phenylmagnesium bromide | C1OC2=CC=[C-]C=C2O1.[Mg+2].[Br-]
reactant | toluene tetrahydrofuran | 0.380 mmol, 1.0 eq. | C1(=CC=CC=C1)C.O1CCCC1
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-(1,3-Benzodioxol-5-yl)-2-[8-(benzyloxy)-5-chloroquinolin-7-yl]ethanol | 0.126 mmol, 33% | O1COC2=C1C=CC(=C2)C(CC2=CC(=C1C=CC=NC1=C2OCC2=CC=CC=C2)Cl)O | C25H20ClNO4
